US05798311
b. 2-bromo-4'-propoxyacetophenone
To 133 g (750 mmole) of 4'-propoxyacetophenone dissolved in 500 ml of diethyl ether and heated to reflux was dropwise added 120 g (750 mmole) of bromine at a rate to maintain reflux and yet allow decolorization of the red color. The resulting organic solution was twice washed with 500 ml of water, washed once with 200 ml of brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. This mixture, upon analysis via gas chromatography was approximately 10% unbrominated starting material, 80% the desired monobrominated product, and 10% dibrominated compound. It was used as is in the next reaction. It could be crystallized from diethyl ether and hexane to yield pure monobrominated compound, a solid, mp 36°-38° C.

reactant | 4'-propoxyacetophenone | 750 mmole, 133 g | C(CC)OC1=CC=C(C=C1)C(C)=O | C11H14O2
reactant | bromine | 750 mmole, 120 g | BrBr | Br2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-bromo-4'-propoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OCCC | C11H13BrO2
